US06284894B1
To a solution of t-butylnitrite (535 μl, 4.5 mmol) and allyl bromide (3.9 ml, 45.0 mmol) in CH3CN (3 ml), 4-bromoaniline (516 mg, 3.0 mmol) was added during 20 minutes, while maintaining the temperature of the reaction mixture at 30-35° C. At the end of the addition of the aniline, extra t-butylnitrite (180 μl, 1.5 mmol) was added to the reaction mixture which then was stirred at 30° C. for one hour. The volatile material in the reaction mixture was removed at reduced pressure. Column chromatography (pentane) gave 200 mg (34%) of 4-allylbromobenzene as a clear oil. 1H NMR (CDCl3, 400 MHz) δ 7.43, (m, 2H, J=8.3 Hz), 7.08, (m, 2H, J=8.3 Hz), 6.00-5.89, (m, 1H), 5.12-5.05, (m, 2H), 3.35, (d, 2H, J 6.7 Hz); 13C NMR (CDCl3, 100 MHz) δ 139.4, 137.2, 131.9, 130.8, 120.3, 116.7, 40.0; Anal HRMS Calcd. for C9H9Br (M): 195.9888. Found: 195.9887.

reactant | t-butylnitrite | 4.5 mmol, 535 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | allyl bromide | 45.0 mmol, 3.9 ml | C(C=C)Br | C3H5Br
reactant | 4-bromoaniline | 3.0 mmol, 516 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | t-butylnitrite | 1.5 mmol, 180 μl | C(C)(C)(C)ON=O | C4H9NO2
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | 4-allylbromobenzene | 200 mg, 34% | C(C=C)C1=CC=C(C=C1)Br | C9H9Br
